US06552046B2
3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic Acid
A solution of 4-amino-5-chloro-2-methoxy-N-(3-methoxy-piperidin-4-yl)-benzamide (1 g, 3.2 mmol), and 241 μL of acrylic acid in 50 ml dichloromethane was stirred under nitrogen for 6 hr then concentrated in vacuo. The residue was slurried with hot ethyl acetate and filtered at room temperature to yield 1.15 g of product as a white solid.

reactant | 4-amino-5-chloro-2-methoxy-N-(3-methoxy-piperidin-4-yl)-benzamide | 3.2 mmol, 1 g | NC1=CC(=C(C(=O)NC2C(CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | acrylic acid | 241 μL | C(C=C)(=O)O | C3H4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[4-(4-amino-5-chloro-2-methoxy-benzoylamino)-3-methoxy-piperidin-1-yl]-propionic Acid | 1.15 g | NC1=CC(=C(C(=O)NC2C(CN(CC2)CCC(=O)O)OC)C=C1Cl)OC | C17H24ClN3O5
